US06156903
Synthesis of 7-(3-aminoazetidine-1-yl)-1-(6-amino-3,5-difluoropyridine-2-yl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
A solution of 70 mg of 3-aminoazetidine dihydro-chloride, 200 mg of 1,8-diazabicyclo[5,4,0]undecene, and 300 mg of pyridine was stirred at 100° C., and 110 mg of 1-(6-amino-3,5-difluoropyridine-2-yl)-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid was added to the solution and the solution was stirred at 100° C. for 6 minutes. The solvent was distilled off the reaction solution, and to the residue was added one drop of acetic acid and 3 ml of ethanol with heating, and the solution was allowed to stand. The solid precipitate was collected and dried to obtain 13 mg of the title compound as a pale yellow powder.

reactant | 3-aminoazetidine dihydro-chloride | 70 mg | Cl.Cl.NC1CNC1
reactant | 1,8-diazabicyclo[5,4,0]undecene | 200 mg | N12C=CCCCC2NCCC1 | C9H16N2
reactant | 1-(6-amino-3,5-difluoropyridine-2-yl)-6,7-difluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 110 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)O)F)F | C16H9F4N3O3
solvent | pyridine | 300 mg | N1=CC=CC=C1 | C5H5N
product | 7-(3-aminoazetidine-1-yl)-1-(6-amino-3,5-difluoropyridine-2-yl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 13 mg | NC1CN(C1)C1=C(C=C2C(C(=CN(C2=C1C)C1=NC(=C(C=C1F)F)N)C(=O)O)=O)F | C19H16F3N5O3
